US07691882B2
2-(3-Fluoro-4-((E)-2-nitro-vinyl)-phenoxymethyl)pyridine
To an acetic acid (15.0 mL) solution of 2-fluoro-4-(pyridin-2-ylmethoxy)-benzaldehyde (1.07 g, 4.63 mmol) described in Manufacturing Example 95-1-1 were added nitromethane (1.41 g, 23.2 mmol) and ammonium acetate (714 mg, 9.26 mmol) under nitrogen atmosphere at room temperature, which was stirred for 2 hours at 100° C. Water and ethyl acetate were added to the reaction mixture, and the organic layer was extracted with ethyl acetate. The organic layer was washed with water and saturated aqueous sodium chloride, dried over anhydrous magnesium sulfate, and filtered. The filtrate was concentrated under a reduced pressure to obtain the title compound (1.20 g) as a crude product.

reactant | acetic acid | 15.0 mL | C(C)(=O)O | C2H4O2
reactant | 2-fluoro-4-(pyridin-2-ylmethoxy)-benzaldehyde | 4.63 mmol, 1.07 g | FC1=C(C=O)C=CC(=C1)OCC1=NC=CC=C1 | C13H10FNO2
reactant | nitromethane | 23.2 mmol, 1.41 g | [N+](=O)([O-])C | CH3NO2
reactant | ammonium acetate | 9.26 mmol, 714 mg | C(C)(=O)[O-].[NH4+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | Water | O | H2O
product | 2-(3-Fluoro-4-((E)-2-nitro-vinyl)-phenoxymethyl)pyridine | 1.20 g | FC=1C=C(OCC2=NC=CC=C2)C=CC1\C=C\[N+](=O)[O-] | C14H11FN2O3
